US04948794
To a solution of 0.5 g (2.4 mmol) 7-methoxy-1-methylquinox-aline-2,3(1H,4H)-dione in 20 ml concentrated sulfuric acid was added at 0° C. 0.25 g (2.48 mmol) potassium nitrate. Stirring was continued at 0° C. for 30 min, and then at 25° C. for 90 min. The reaction mixture was poured into 100 ml icewater to give 0.51 g (84%) of 7-methoxy-1-methyl-6-nitroquinoxaline- 2,3(1H,4H)-dione as a precipitate. M.p. 343° C. NMR (DMSO-d6): 11.9 (1H, broad s), 7.67 (1H, s), 7.0 (1H, s), 3.97 (3H, s), 3.53 (3H, s).

reactant | 7-methoxy-1-methylquinox-aline-2,3(1H,4H)-dione | 2.4 mmol, 0.5 g | COC1=CC=C2NC(C(N(C2=C1)C)=O)=O | C10H10N2O3
reactant | potassium nitrate | 2.48 mmol, 0.25 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 7-methoxy-1-methyl-6-nitroquinoxaline- 2,3(1H,4H)-dione | 0.51 g, 84% | COC1=C(C=C2NC(C(N(C2=C1)C)=O)=O)[N+](=O)[O-] | C10H9N3O5
